US08877774B2
Step 4. (3-((4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methoxy)phenyl)-(phenyl)methanamine hydrochloride
To a solution of tert-butyl((3-((4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methoxy)phenyl)(phenyl)methyl)carbamate (1.44 g, 2.6 mmol) in methanol (6.5 mL), was added hydrogen chloride in dioxan (6.5 mL). The reaction mixture was stirred at ambient temperature for 16 hours. The solvent was evaporated to afford a mixture of the title compound and the corresponding dimethyl acetal. The material was used in the next step without further purification.

reactant | tert-butyl((3-((4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methoxy)phenyl)(phenyl)methyl)carbamate | 2.6 mmol, 1.44 g | C(C)(C)(C)OC(NC(C1=CC=CC=C1)C1=CC(=CC=C1)OCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1OCCO1)=O | C35H37NO5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 6.5 mL | CO | CH4O
solvent | dioxan | 6.5 mL | O1CCOCC1 | C4H8O2
product | (3-((4′-((1,3-dioxolan-2-yl)methyl)-[1,1′-biphenyl]-3-yl)methoxy)phenyl)-(phenyl)methanamine hydrochloride | Cl.O1C(OCC1)CC1=CC=C(C=C1)C1=CC(=CC=C1)COC=1C=C(C=CC1)C(N)C1=CC=CC=C1 | InChI=1S/C30H29NO3.ClH/c31-30(25-7-2-1-3-8-25)27-10-5-11-28(20-27)34-21-23-6-4-9-26(18-23)24-14-12-22(13-15-24)19-29-32-16-17-33-29;/h1-15,18,20,29-30H,16-17,19,21,31H2;1H
